US06498172B1
{3-[(4-Pyrazin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl-ester
The title compound of Step A was prepared from (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester, of Preparation 20, and 4-pyrazin-2-yl-benzaldehyde, of Preparation 27, using the method described in Example 3, Step A, except no triethylamine was used. 1H NMR (400 MHz, CDCl3) δ 9.00 (s, 1H), 8.60 (m, 1H), 8.47 (d, 1H), 7.96 (d, 2H), 7.62 (m, 1H), 7.47 (d, 2H), 7.22 (m, 1H), 6.94 (m, 1H), 6.76 (dd, 1H), 4.50 (s, 2H), 3.85 (s 2H), 3.78 (s, 2H), 1.46 (s, 9H); MS 406 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-pyrazin-2-yl-benzaldehyde | N1=C(C=NC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {3-[(4-Pyrazin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl-ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C24H27N3O3
